US09340546B2
TFA (0.75 mL, 9.735 mmol) was added to a solution of tert-butyl N-[4-(1-methyl-2-oxo-4-piperidyl)-3-pyridyl]carbamate (74 mg, 0.2423 mmol) in DCM (2 mL) and was stirred at ambient temperature for 2 hours. The reaction mixture was adsorbed onto a pre-wetted (methanol/DCM (1:1), 2 mL) SCX-2 cartridge (2 g) and flushed with DCM/methanol (1:1, 20 mL) and then the basic components eluted with 2 M ammonia in methanol (20 mL). The basic eluent was evaporated to dryness to afford 4-(3-aminopyridin-4-yl)-1-methylpiperidin-2-one as a pale yellow oil (50 mg, 97%). MS (ES+) 206.1.

reactant | TFA | 9.735 mmol, 0.75 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl N-[4-(1-methyl-2-oxo-4-piperidyl)-3-pyridyl]carbamate | 0.2423 mmol, 74 mg | CN1C(CC(CC1)C1=C(C=NC=C1)NC(OC(C)(C)C)=O)=O | C16H23N3O3
reactant | methanol DCM | CO.C(Cl)Cl
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-aminopyridin-4-yl)-1-methylpiperidin-2-one | 50 mg, 97% | NC=1C=NC=CC1C1CC(N(CC1)C)=O | C11H15N3O
